US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis -2-butenyl]-4-(2-hydroxypropylthio)butyramide
Following a procedure similar to that described in Example 1, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 1-mercapto-2-propanol as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained in a 58% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 1-mercapto-2-propanol | SCC(C)O | C3H8OS
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis -2-butenyl]-4-(2-hydroxypropylthio)butyramide | 58% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSCC(C)O)=O | C22H35N3O3S
